US06380431B1
Monomer IV can be obtained by following this general procedure: A mixture of 2-(chloromethyl)quinoline·HCl and a 1% sodium carbonate solution is added to a separatory funnel, and extracted with methylene chloride. The methylene chloride extracts are passed through a cone of anhydrous sodium sulfate, and collected in a flask. 2-(Chloromethyl)quinoline is obtained in the flask after evaporation of the methylene chloride. To the flask containing 2-(chloromethyl)quinoline, is added MEHQ and acetone. The mixture is heated to about 56° C. DMAPMA is added to the solution. The resulting mixture is heated for about 110 min at 56° C., then cooled to about 25° C. for 2 hrs. The resulting white solid, the quaternary ammonium salt of DMAPMA and 2-(chloromethyl)quinoline is isolated by filtration.

reactant | 2-(chloromethyl)quinoline·HCl | ClCC1=NC2=CC=CC=C2C=C1.Cl
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | 2-(Chloromethyl)quinoline | ClCC1=NC2=CC=CC=C2C=C1 | C10H8ClN
